US06569863B1
(g). Ethyl 5-Amino-4-(3-{2-[5-methyl-2-phenylimidazol-4-yl]ethoxy}phenyl)-2-methylthio-thieno[2,3-d]pyrimidine-6-carboxylate
Cyclization of S-methylisothiourea sulfate (139 mg), 3-{2-[5-methyl-2-phenylimidazol-4-yl]ethoxy}benzaldehyde (496 mg, synthesized from 3-hydroxybenzaldehyde (489 mg) and 4-chloroethyl-5-methyl-2-phenylimidazole (1.03 g) via the procedure described in example 79a) and ethyl cyanoacetate (112 μl), treatment of the product with POCl3 and subsequent reaction with ethyl 2-mercaptoacetate were performed according to the methods described in example 1. The pure title compound was obtained after chromathography on silicagel in dichloromethane/ethyl acetate=10010 (v/v)→70(30 (v/v) as eluent.

reactant | S-methylisothiourea sulfate | 139 mg | S(=O)(=O)(O)O.CSC(N)=N
reactant | 3-{2-[5-methyl-2-phenylimidazol-4-yl]ethoxy}benzaldehyde | CC1=C(N=C(N1)C1=CC=CC=C1)CCOC=1C=C(C=O)C=CC1 | C19H18N2O2
reactant | 3-hydroxybenzaldehyde | 489 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 4-chloroethyl-5-methyl-2-phenylimidazole | 1.03 g | ClCCC=1N=C(NC1C)C1=CC=CC=C1 | C12H13ClN2
reactant | ethyl cyanoacetate | 112 μl | C(#N)CC(=O)OCC | C5H7NO2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-mercaptoacetate | SCC(=O)OCC | C4H8O2S
solvent | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
product | Ethyl 5-Amino-4-(3-{2-[5-methyl-2-phenylimidazol-4-yl]ethoxy}phenyl)-2-methylthio-thieno[2,3-d]pyrimidine-6-carboxylate | NC1=C(SC=2N=C(N=C(C21)C2=CC(=CC=C2)OCCC=2N=C(NC2C)C2=CC=CC=C2)C)C(=S)OCC | C28H27N5O2S2
